US08222248B2
A mixture of 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzamide (0.8 mL in 0.2 M DMSO solution), 2,6-dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzaldehyde (0.8 mL in 0.2 M toluene solution) and FeCl3 (0.4 mL in 0.02M THF solution) was stirred in open air at ambient temperature overnight. The mixture was then diluted by MeOH and the whole was loaded onto a solid phase extraction (SPE) cartridge that contained strong cation exchange (SCX) (1 g media in 6 mL cartridge. United Chemical Technology). Wash-to-waste (5 mL MeOH) was followed by elute-to-collect (5 mL 20:2:1 ethyl acetate-MeOH-Et3N) and, after evaporation of volatiles, the crude was further purified by silica gel column chromatography to give 2-[2,6-dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethoxy)-phenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide: MS (m/z) 497 (M+1).

reactant | 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzamide | 0.2 M, 0.8 mL | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1N | C15H17N3O
reactant | 2,6-dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | 0.2 M, 0.8 mL | CC1=C(C=O)C(=CC(=C1)OCC(N1CCCC1)=O)C | C15H19NO3
solvent | MeOH | CO | CH4O
product | 2-[2,6-dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethoxy)-phenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OCC(N2CCCC2)=O)C)C=C1 | C30H32N4O3
